US07115607B2
tert-Butyl 4-{2-[(methylsulfonyl)amino]phenyl}-piperazinecarboxylate
tert-Butyl 4-{2-[(methylsulfonyl)amino]phenyl}-piperazinecarboxylate was prepared following the procedure for Preparation III using, tert-butyl 4-(2-aminophenyl)piperazinecarboxylate (4.4 g, 16 mmol), methanesulfonyl chloride (1.4 mL, 18 mmol) and DIEA (instead of pyridine) (3.1 mL, 18 mmol). The crude material was purified by flash chromatography (SiO2, 4:1 hexane:EtOAc) and concentrated in vacuo to afford the desired compound (4.1 g). MS (ESI, pos. ion) m/z: 356 (M+H), (ESI, neg. ion) m/z: 354 (M−H). Calc'd for C16H25N3O4S: 355.16.

reactant | tert-butyl 4-(2-aminophenyl)piperazinecarboxylate | 16 mmol, 4.4 g | NC1=C(C=CC=C1)N1CCN(CC1)C(=O)OC(C)(C)C | C15H23N3O2
reactant | methanesulfonyl chloride | 18 mmol, 1.4 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | DIEA | CCN(C(C)C)C(C)C | C8H19N
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | tert-Butyl 4-{2-[(methylsulfonyl)amino]phenyl}-piperazinecarboxylate | 4.1 g | CS(=O)(=O)NC1=C(C=CC=C1)N1CCN(CC1)C(=O)OC(C)(C)C | C16H25N3O4S
